US04582834
1.5 g of 5-(4-methoxyphenyl)-4-methyl-2-(1H)-pyrimidinone are heated with 12.5 ml of 47% hydrobromic acid at 100° C. for 24 hours. The mixture is then cooled to 0° C., and the product which has crystallised out is filtered off with suction and washed with cold ethanol. 1.3 g of 5-(4-hydroxyphenyl)-4-methyl-2-(1H)-pyrimidinone hydrobromide are obtained. Melting point above 300° C.

reactant | 5-(4-methoxyphenyl)-4-methyl-2-(1H)-pyrimidinone | 1.5 g | COC1=CC=C(C=C1)C=1C(=NC(NC1)=O)C | C12H12N2O2
reactant | hydrobromic acid | 12.5 ml | Br | BrH
product | 5-(4-hydroxyphenyl)-4-methyl-2-(1H)-pyrimidinone hydrobromide | 1.3 g | Br.OC1=CC=C(C=C1)C=1C(=NC(NC1)=O)C | InChI=1S/C11H10N2O2.BrH/c1-7-10(6-12-11(15)13-7)8-2-4-9(14)5-3-8;/h2-6,14H,1H3,(H,12,13,15);1H
